US04112096
Dimethylethynylcarbinol acetate
112 g (one mole) of freshly distilled dimethylethynyl carbinol is treated with 1.2 moles of acetic anhydride containing 10 drops of 85% phosphoric acid. The acetic anhydride is added to the carbinol dropwise with shaking while maintaining the temperature under 40°. The mixture is allowed to stand overnight, washed with two 75 ml portions of cold water, and the water washings are extracted with ether. The ether extract is added to the main portion of ester and the combined ethereal solution is washed with 10% sodium carbonate solution until the washings remain basic to litmus. The solution is washed with two 75 ml portions of ice-water, dried over calcium chloride, and distilled to give the title compound.

reactant | dimethylethynyl carbinol | CC(O)(C#C)C | C5H8O
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | acetic anhydride | 1.2 moles, 10 drops | C(C)(=O)OC(C)=O | C4H6O3
solvent | carbinol | CO | CH4O
product | Dimethylethynylcarbinol acetate | C(C)(=O)OC(C#C)(C)C | C7H10O2
